### PR TITLE
[Merged by Bors] - feat(Algebra/Ring/CentroidHom): central iff mul op commute

### PR DESCRIPTION
**Pull request by mans0954**
Show that an element of a commutative semiring is central iff the corresponding multiplication operator commutes with all multiplication operators

---

- [x] depends on: #7060
- [x] depends on: #7843
- [x] depends on: #8581

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 1]
```diff
@@ -467,21 +467,44 @@ lemma centerToCentroid_apply (z : { x // x ∈ NonUnitalSubsemiring.center α })
     (centerToCentroid z) a = z * a := rfl
 
 lemma center_iff_op_centroid (a : α) :
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:469]: I don't understand this "op" naming scheme. Can you explain the reasoning behind this name (here and elsewhere)?

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 2]
```diff
@@ -467,21 +467,44 @@ lemma centerToCentroid_apply (z : { x // x ∈ NonUnitalSubsemiring.center α })
...
 
+section NonUnitalNonAssocCommSemiring
+
+variable [NonUnitalNonAssocCommSemiring α]
+
+local notation "L" => AddMonoid.End.mulLeft
+local notation "R" => AddMonoid.End.mulRight
+
+lemma center_iff_op_mul_commute (a : α) :
+    a ∈ NonUnitalSubsemiring.center α ↔ ∀ b : α, Commute (L b) (L a) := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:494]:
```suggestion
lemma center_iff_op_mul_commute (a : α) :
    a ∈ NonUnitalSubsemiring.center α ↔ ∀ b : α, Commute (L b) (L a) := by
```
This seems to highlight an asymmetry which doesn't actually exist. Can you provide a lemma of the form `Commute (L a) (L b) ↔ Commute (R a) (R b)` (apologies if it exists already and I missed it).

File: Mathlib/Algebra/Ring/CentroidHom.lean [hunk 3]
```diff
@@ -467,21 +467,44 @@ lemma centerToCentroid_apply (z : { x // x ∈ NonUnitalSubsemiring.center α })
...
+  rw [center_iff_op_centroid, centroid_eq_centralizer_mulLeftRight, Subsemiring.mem_centralizer_iff,
+    AddMonoid.End.comm_mulRight_eq_mulLeft, Set.union_self]
+  simp_rw [true_and]
+  constructor
+  · intro h b
+    apply h (L b)
+    simp only [Set.mem_range, exists_apply_eq_apply]
+  · intro h _ ⟨b, hb⟩
+    rw [← hb]
+    exact h b
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/CentroidHom.lean:504]:
```suggestion
  simp_rw [true_and]
  exact ⟨fun h b ↦ h (L b) ⟨b, rfl⟩, by rintro h _ ⟨b, rfl⟩; exact h b⟩
```
or, if you prefer: `aesop` works in places of all of this.

**Review by j-loreaux — COMMENTED** [review]
Why "op"?

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: `AddMonoid.End.comm_mulRight_eq_mulLeft` introduced in https://github.com/leanprover-community/mathlib4/pull/7060/files#diff-f49b5ab38f9aab47a03faa24fb627f8c9c57f2175af4c3c4bf7f186ebdbb3673R360 is the result that the left and right multiplication operators coincide on Commutative Semirings. Following Hanche-Olsen and Størmer, I've changed the notation for `AddMonoid.End.mulLeft` from `L` to `T` in this case to de-emphasise the "leftness". Is that sufficient?

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: Thanks, I've replaced this with `aesop`.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: I think you might be able to just use `mem_center_iff` although the namespace `CentroidHom` is a little weird. Calling this `NonUnitalNonAssocSemiring.mem_center_iff` might make more sense.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: Aha, I missed commutativity. I think you should leave it as `L`, but add a docstring emphasizing that `mulLeft` and `mulRight` coincide because the ring is commutative. This could be called `mem_center_iff_commute` or, again because the namespace `CentroidHom` is a bit weird: `NonUnitalNonAssocCommSemiring.mem_center_iff`.

**Comment by j-loreaux** [comment]
Also, I realized this:
https://github.com/leanprover-community/mathlib4/blob/5522fc375dfd18ea7496d18f560309e857582ca8/Mathlib/Algebra/Ring/CentroidHom.lean#L490
should just be `Subsemiring.center`

**Comment by j-loreaux** [comment]
And this:
https://github.com/leanprover-community/mathlib4/blob/5522fc375dfd18ea7496d18f560309e857582ca8/Mathlib/Algebra/Ring/CentroidHom.lean#L466
You should be able to simply write: `(z : NonUnitalSubsemiring.center α)`

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: Thanks, I've made that change.

File: Mathlib/Algebra/Ring/CentroidHom.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Algebra/Ring/CentroidHom.lean]: Thanks, I've added a docstring and renamed the lemma.

**Comment by j-loreaux** [comment]
@mans0954 I pushed a change to reduce the diff. You were constantly opening and closing the `CentroidHom` namespace just in order to move two lemmas out of that namespace. In this case, it's better to de-namespace them by using the `_root_.` prefix.

**Comment by j-loreaux** [comment]
bors d+
